* C:\Users\USUARIO\Downloads\Diseno\ProyectoGitHub\Proyecto\1.Simulaciones_LTSPICE\1.Esquematico_Simulacion_Medidor_Corriente_Ideal\CorrienteIdeal.asc
XU1 N001 N003 V+ V- N002 V+ MAX4239
XU2 N002 N004 V+ V- Vset V+ MAX4239
R1 Vout N004 9k
R2 0 N004 1k
R3 N002 N003 9k
R4 0 N003 1k
R5 Vout Vset 50k
V1 V+ 0 3
Iin 0 Vburden 500m
R9 Vburden N001 270
V2 0 V- 3
RmA Vburden 0 10m
.op
.lib MAX4239.lib
.backanno
.end
