* C:\Users\USUARIO\Downloads\Diseño\ProyectoGitHub\Proyecto\ProyectoLTSPICE\SimulacionComparador\Draft4.asc
V1 V+ 0 3
V2 0 V- 3
V3 N003 0 PULSE(0 3 0 1n 1n 20m 40m)
R2 N001 P001 10m
R1 N001 0 10
I1 0 N001 PULSE(400u 200m 0 1n 1n 19m 40m)
XU1 P001 N002 0 IRLZ44N
R3 N002 N003 10k
.tran 100m
.lib ..\sym\ZZZ\MOS\IRF\LIB\irlz44n.spi
.backanno
.end
