* C:\Users\JEIFER\Documents\GitHub\ProyectoUcurrentUIS\ProyectoLTSPICE\SimulacionMedicionCorriente Ideal\CorrienteIdeal.asc
XU1 N002 N004 V+ V- N003 V+ MAX4239
XU2 N003 N006 V+ V- N005 V+ MAX4239
R1 Vout N006 9k
R2 0 N006 1k
R3 N003 N004 9k
R4 0 N004 1k
R5 Vout N005 50k
V1 V+ 0 3
I1 0 N001 PULSE(0 500m 0 100m 0 0 100m)
R9 N001 N002 270
V2 0 V- 3
RmA N001 0 10m
.dc I1 0m 500m 10m
.lib MAX4239.lib
.backanno
.end
